US08222248B2
A mixture of 4-amino-N-(4-tert-butylphenyl)-3-nitrobenzamide from the previous step and 100 mg of 5% platinum on carbon in 50 mL of 1:1 ethyl acetate/ethanol was reduced under a hydrogen balloon. The reaction was filtered through Celite to remove catalyst and the solvent was removed under reduced pressure to afford 3,4-diamino-N-(4-tert-butylphenyl)-benzamide.

reactant | 4-amino-N-(4-tert-butylphenyl)-3-nitrobenzamide | NC1=C(C=C(C(=O)NC2=CC=C(C=C2)C(C)(C)C)C=C1)[N+](=O)[O-] | C17H19N3O3
catalyst | platinum on carbon | 100 mg | [Pt] | Pt
solvent | ethyl acetate ethanol | 50 mL | C(C)(=O)OCC.C(C)O
product | 3,4-diamino-N-(4-tert-butylphenyl)-benzamide | NC=1C=C(C(=O)NC2=CC=C(C=C2)C(C)(C)C)C=CC1N | C17H21N3O
